US05252732
17-Ethyl-1,14-dihydroxy-12-[2'-(4"-(1-(3-hydroxypropyl)indol-5-yl)oxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(1-(3-t-butyldimethylsilyloxy-propyl)indol-5-yl)oxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (144 mg) in CH2Cl2 (4 mL.) at rt was added a solution of p-toluene sulfonic acid (20 mg.) in CH3OH (4 mL.). The reaction mixture was stirred for 3 hr., quenched with saturated NaHCO3, then extracted with CH2Cl2. The extracts were combined, dried over Na2SO4, filtered and concentrated in vacuo. The product was purified by preparative TLC on silica gel (2:1, hexane/acetone) to give 81 mg of the title compound. Partial 1H NMR (CDCl3, 200 MHz) d: 7.22 (d, J=9 Hz, 1H); 7.18 (d, J=3 Hz, 1H); 7.07 (d, J=3 Hz, 1H); 6.89 (dd, J=3 Hz and J=9 Hz, 1H); 6.34 (d, J=3 Hz, 1H); 4.20 (t, J=6.5 Hz, 2H); 2.00 (m, 2H).

reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(1-(3-t-butyldimethylsilyloxy-propyl)indol-5-yl)oxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 144 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC=2C=C1C=CN(C1=CC2)CCCO[Si](C)(C)C(C)(C)C)OC)C)C)O)=O | C60H94N2O13Si
reactant | p-toluene sulfonic acid | 20 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
solvent | CH3OH | 4 mL | CO | CH4O
product | 17-Ethyl-1,14-dihydroxy-12-[2'-(4"-(1-(3-hydroxypropyl)indol-5-yl)oxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 81 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC=2C=C1C=CN(C1=CC2)CCCO)OC)C)C)O)=O | C54H80N2O13
